US05942634
Preparation of 2-pyridyl cholest-5-ene-3-yl disulfide (intermediate A)
Cholest-5-ene-3-thiol (2.00 g, 4.97 mmol) and 2,2'-dipyridyl disulfide (2.00 g, 9.07 mmol) were dissolved in methylene chloride (50 mL) the reaction mixture was stirred at room temperature overnight. The solvent was removed in vacuo to obtain a crude product. This material was purified by column chromatography on florisil (261 g) with benzene:hexane 40:60 as eluent. The desired product was isolated (1.69 g, 66% yield) and characterized by 1H NMR.

reactant | Cholest-5-ene-3-thiol | 4.97 mmol, 2.00 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4CC(CC[C@]4(C)[C@H]3CC[C@]12C)S | C27H46S
reactant | 2,2'-dipyridyl disulfide | 9.07 mmol, 2.00 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-pyridyl cholest-5-ene-3-yl disulfide | 66% yield | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4CC(CC[C@]4(C)[C@H]3CC[C@]12C)SSC1=NC=CC=C1 | C32H49NS2
